US08664220B2
Step 1: 1-{4′-[3-Methyl-4-(5-phenyl-tetrazol-2-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 5-phenyl-2H-tetrazole.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 5-phenyl-2H-tetrazole | C1(=CC=CC=C1)C=1N=NNN1 | C7H6N4
product | 1-{4′-[3-Methyl-4-(5-phenyl-tetrazol-2-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=C(N=N1)C1=CC=CC=C1 | C30H27N5O3
